US07816349B2
Methanesulfonic acid trans-4-{(R)-3-[3,5-dichloro-4′-(4-trifluoromethyl-piperidine-1-carbonyl)-biphenyl-4-ylmethyl]-2-oxo-pyrrolidin-1-yl}-cyclohexyl ester
Dissolve (R)-3-[3,5-Dichloro-4′-(4-trifluoromethyl-piperidine-1-carbonyl)-biphenyl-4-ylmethyl]-trans-1-(4-hydroxy-cyclohexyl)-pyrrolidin-2-one (Preparation 23) (0.419 g, 0.70 mmol) in 10 ml of dry dichloromethane at 0° C. Add triethylamine (0.18 ml, 1.41 mmol) followed by methanesulfonyl chloride (0.06 ml, 0.77 mmol). Stir at room temperature for 5 hours. Quench with 1N HCl and extract with ethyl acetate. Wash the extract with 1N HCl, NaHCO3 and brine. Dry over magnesium sulfate, filter, and concentrate. Filter through a short silica plug to receive 0.45 g (95%) of the title compound: Mass spectrum (apci) m/z=675 (M+H).

reactant | (R)-3-[3,5-Dichloro-4′-(4-trifluoromethyl-piperidine-1-carbonyl)-biphenyl-4-ylmethyl]-trans-1-(4-hydroxy-cyclohexyl)-pyrrolidin-2-one | 0.70 mmol, 0.419 g | ClC=1C=C(C=C(C1C[C@H]1C(N(CC1)[C@@H]1CC[C@H](CC1)O)=O)Cl)C1=CC=C(C=C1)C(=O)N1CCC(CC1)C(F)(F)F | C30H33Cl2F3N2O3
reactant | triethylamine | 1.41 mmol, 0.18 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.77 mmol, 0.06 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | Methanesulfonic acid trans-4-{(R)-3-[3,5-dichloro-4′-(4-trifluoromethyl-piperidine-1-carbonyl)-biphenyl-4-ylmethyl]-2-oxo-pyrrolidin-1-yl}-cyclohexyl ester | ClC=1C=C(C=C(C1C[C@H]1C(N(CC1)[C@@H]1CC[C@H](CC1)OS(=O)(=O)C)=O)Cl)C1=CC=C(C=C1)C(=O)N1CCC(CC1)C(F)(F)F | C31H35Cl2F3N2O5S
